US08242282B2
(i) Synthesis of 4-(hydroxymethyl)-N-(tetrahydro-2H-pyran-2-yloxy)benzamide
A mixture of 4-(Hydroxymethyl)benzoic acid (0.75 g, 5 mmol), O-(tetrahydro-2H-pyran-2-yl)hydroxylamine (0.59 g, 5 mmol), and 1-ethyl-3-(3-dimethyllaminopropyl)carbodiimide hydrochloride (1.15 g, 6 mmol) in dichloromethane (50 mL) was stirred at room temperature for 2 h (monitored by TLC). The mixture was extracted with water and dried over magnesium sulfate. The residue was purified by chromatography (MeOH:DCM=1:50) to give the title compound (0.88 g, 70%). NMR (400 MHz in DMSO, Bruker AVANCE-400): δ 1.52 (m, 3H, OTHP), 1.72 (m, 3H, OTHP), 3.51 (m, 1H, OTHP), 4.04 (m, 1H, OTHP), 4.53 (s, 2H, CH2), 4.98 (s, 1H, OTHP), 5.28 (s, 1H, NH), 7.38 (d, 2H, J=10.0 Hz, Ar—H), 7.72 (d, 2H, J=5.0 Hz, Ar—H), 11.55 (s, 1H, OH).

reactant | 4-(Hydroxymethyl)benzoic acid | 5 mmol, 0.75 g | OCC1=CC=C(C(=O)O)C=C1 | C8H8O3
reactant | O-(tetrahydro-2H-pyran-2-yl)hydroxylamine | 5 mmol, 0.59 g | O1C(CCCC1)ON | C5H11NO2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 4-(hydroxymethyl)-N-(tetrahydro-2H-pyran-2-yloxy)benzamide | 0.88 g, 70% | OCC1=CC=C(C(=O)NOC2OCCCC2)C=C1 | C13H17NO4
